US07199135B2
BIS(4-FLUOROPHENYL)ACETIC ACID.
Fluorobenzene (13.6 g, 0.142 mol) and glyoxylic acid monohydrate (2.35 g, 0.0255 mol) were dissolved in warm acetic acid (30.0 mL). The mixture was cooled in an ice/water bath and concentrated sulfuric acid (20.0 mL) was added dropwise over 0.5 h. The resulting thick red suspension was stirred at 80° C. for 12 h and then cooled to room temperature. Water (300 mL) was added and the pH was adjusted to 3 with potassium hydroxide pellets and 10% KOH solution. The aqueous solution was extracted with ethyl acetate (3×100 mL) and the combined organic extracts were washed with brine (100 mL) and dried over sodium sulfate, filtered and concentrated in vacuo to give the desired product (5.18 g, 82%) as a red solid, which was used in the subsequent step without further purification: 1H NMR (400 MHz, CD3OD) δ 9.45 (br s, 1H), 7.31–7.25 (m, 4H), 7.06–7.0 (m, 4H), 5.01 (s, 1H).

reactant | Fluorobenzene | 0.142 mol, 13.6 g | FC1=CC=CC=C1 | C6H5F
reactant | glyoxylic acid monohydrate | 0.0255 mol, 2.35 g | O.C(C=O)(=O)O
reactant | sulfuric acid | 20.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | potassium hydroxide | [OH-].[K+]
solvent | acetic acid | 30.0 mL | C(C)(=O)O | C2H4O2
solvent | Water | 300 mL | O | H2O
product | BIS(4-FLUOROPHENYL)ACETIC ACID | 5.18 g, 82% | FC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)F | C14H10F2O2
